US08138176B2
c) 5-(4-Methoxyphenyl)-5-methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazine
A mixture of 1.9 mmol of 5-(4-methoxyphenyl)-5-methyl-5,6,8,8a-tetrahydro-1H-imidazo[5,1-c][1,4]oxazine and 3 g of manganese dioxide in 50 ml of toluene is heated to reflux for 3.5 hours. The reaction mixture is cooled to room temperature, the solid is filtered off through Hyflo, and the filtrate is evaporated. The crude title compound is obtained as a yellow oil from the residue and is employed without further purification in the next stage. Rf=0.31 (dichloromethane-methanol-25% aqueous ammonia solution 200:10:1), Rt=2.66 (gradient I)

reactant | 5-(4-methoxyphenyl)-5-methyl-5,6,8,8a-tetrahydro-1H-imidazo[5,1-c][1,4]oxazine | 1.9 mmol | COC1=CC=C(C=C1)C1(N2C(COC1)CN=C2)C | C14H18N2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 3 g | [O-2].[O-2].[Mn+4]
product | 5-(4-Methoxyphenyl)-5-methyl-5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazine | COC1=CC=C(C=C1)C1(N2C(COC1)=CN=C2)C | C14H16N2O2
